US07384967B2
N-Methyl-N-(2-phenoxyphenyl)-N′-(thiazol-2-yl)urea
To a solution of 2-aminothiazole (0.20 g, 2.00 mmol) in dichloroethane (20 ml) was added 1,1′-carbonyldiimidazole (0.40 g, 2.5 mmol) and N,N-dimethylaminopyridine (0.05 g, 0.4 mmol) then the solution was refluxed at 80° C. for 1 h. N-Methyl-2-phenoxyaniline (0.40 g, 2.00 mmol) was added to the solution. The reaction mixture was then stirred overnight at 80° C. The reaction was monitored by LC-MS and TLC, then concentrated under reduced pressure to afford crude product which subsequently was subjected to silica gel chromatography (hexanes:ethyl acetate from 80:20 to 50:50 as eluent system) to afford title product (0.48 g, 73%) as orange solid.

reactant | 2-aminothiazole | 2.00 mmol, 0.20 g | NC=1SC=CN1 | C3H4N2S
reactant | 1,1′-carbonyldiimidazole | 2.5 mmol, 0.40 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-Methyl-2-phenoxyaniline | 2.00 mmol, 0.40 g | CNC1=C(C=CC=C1)OC1=CC=CC=C1 | C13H13NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | N-Methyl-N-(2-phenoxyphenyl)-N′-(thiazol-2-yl)urea | 0.48 g, 73% | CN(C(=O)NC=1SC=CN1)C1=C(C=CC=C1)OC1=CC=CC=C1 | C17H15N3O2S
